US05395845
α-ethynyl 2-(trifluoromethyl) 4-thiazolemethanol
11 ml of a molar solution of ethynyl magnesium bromide were added to a solution of tetrahydrofuran (THF) with 2 g of 2-(trifluoromethyl) 4-thiazolecarboxaldehyde and the reaction mixture was stirred for 30 minutes at about 20°-25° C. It was poured into a solution of ammonium chloride and extraction was carried out with methylene chloride. The extracts were dried, filtered and evaporated to dryness to obtain 2.1 g of the desired product.

reactant | ethynyl magnesium bromide | C(#C)[Mg]Br
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 2-(trifluoromethyl) 4-thiazolecarboxaldehyde | 2 g | FC(C=1SC=C(N1)C=O)(F)F | C5H2F3NOS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | α-ethynyl 2-(trifluoromethyl) 4-thiazolemethanol | 2.1 g | C(#C)C(O)C=1N=C(SC1)C(F)(F)F | C7H4F3NOS
